US05364881
Nδ -(Benzyloxycarbonyl)-L-ornithine tert-butyl ester was prepared according to a general published procedure (Bodanszky, M.; Bodanszky, A.; The Practice of Peptide Synthesis; Spring Verlag: New York, 1984). Specifically, Nδ -(benzyloxycarbonyl)-L-ornithine (10.0 gm, 37.6 mmol, Sigma Chemicals, Inc.) was mixed with tert-butyl acetate (564 ml) and perchloric acid (5.91 ml, 69-72% aqueous solution) at room temperature. The reaction mixture became homogenous after 15 minutes and was stirred at room temperature for 2 days. Water (300 ml) was added to the reaction mixture, and the two layers obtained were separated. The organic layer was extracted twice (2×200 ml) with water, and the combined aqueous layers were adjusted to pH 9.5-10.0 with 50% NaOH. The aqueous layer was then filtered to remove a small amount of insoluble material, and the filtrate was extracted with ethyl acetate (3×300 ml). The combined ethyl acetate extracts were dried over MgSO4 and were concentrated by rotary evaporation at reduced pressure to yield 7.5 g of Nδ -(benzyloxycarbonyl)-L-ornithine tert-butyl ester as an oil (65% yield). 1H NMR (DCCl3) δ1.44 (s,9H), 1.5-1.9 (m,4H), 3.23 (t,2H), 3.31 (t,1H), 5.09 (s,2H and s,1H broad), 7.35 (s,5H).

reactant | Nδ -(benzyloxycarbonyl)-L-ornithine | 37.6 mmol, 10.0 gm | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](N)C(=O)O | C13H18N2O4
reactant | tert-butyl acetate | 564 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | perchloric acid | 5.91 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | Water | 300 ml | O | H2O
product | Nδ -(benzyloxycarbonyl)-L-ornithine tert-butyl ester | 7.5 g, 65% yield | C(C)(C)(C)OC([C@@H](N)CCCNC(=O)OCC1=CC=CC=C1)=O | C17H26N2O4
